US07601870B2
N-(4-Amino-2,6-dimethyl-phenyl)-acetamide
Zinc dust (30 g) was added in portions over 10 minutes to N-(2,6-dimethyl-4-nitro-phenyl)-acetamide (5.09 g) in tetrahydrofuran (200 mL) and acetic acid (60 mL) cooled to 0° C. The reaction mixture was filtered after 30 minutes through silica-(50 g), which was washed with methanol/ethyl acetate (20:80, 100 mL). The organic phase was washed with saturated aqueous sodium bicarbonate (100 mL) and treated with heptane until the title compound precipitated, which was collected, washed with heptane and dried in vacuo to furnish 1.20 g (28% yield) of the title compound as a pale red solid. 1H NMR (500 MHz, DMSO-d6): 1.95 (s, 3H), 1.96 (s, 6H), 4.82 (s, 2H), 6.23 (s, 2H), 8.79 (s, 1H).

reactant | N-(2,6-dimethyl-4-nitro-phenyl)-acetamide | 5.09 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)NC(C)=O | C10H12N2O3
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 30 g | [Zn] | Zn
product | N-(4-Amino-2,6-dimethyl-phenyl)-acetamide | 1.20 g, 28% yield | NC1=CC(=C(C(=C1)C)NC(C)=O)C | C10H14N2O
